US07572784B2
A mixture of 9-Chloro-7-(2,6-difluoro-phenyl)-2-iodo-5H-benzo[c]pyrimido[4,5-e]azepine (200 mg, 0.43 mmol), ethyl 2-aminooxazole-5-carboxylate (81.2 mg, 0.52 mmol), tris(dibenzylideneacetone)dipalladium(0) (Pd2(dba)3) (935 mg, 0.034 mmol), Xantphos (30 mg, 0.052 mmol), powdered K3PO4 (183 mg, 0.86 mmol), and degassed toluene were submitted to microwave irradiation (300 W) for 20 minutes at 145° C. The mixture was cooled to room temperature and then evaporated to leave a brown solid which was purified by column chromatography (silica gel, CH2Cl2 to 50% diethyl ether in CH2Cl2) to yield 2-[9-Chloro-7-(2,6-difluoro-phenyl)-5H-benzo[c]pyrimido[4,5-e]azepin-2-ylamino]-oxazole-5-carboxylic acid ethyl ester as a yellow powder (103 mg, 48%) MS m/z=496 (M+H). 2-[9-Chloro-7-(2,6-difluoro-phenyl)-5H-benzo[c]pyrimido[4,5-e]azepin-2-ylamino]-oxazole-5-carboxylic acid ethyl ester (91 mg, 0.18 mmol), methanol (1 mL), tetrahydrofuran (3 mL), and 1N LiOH (3.7 mL, 3.7 mmol) were stirred at room temperature for 3 hours. Water (50 mL) was added with stirring, and the resulting clear yellow solution was acidified by slowly adding 1N HCl. A yellow precipitate formed. Diethyl ether (10 mL) was added and the precipitate was collected by filtration, washed with water, diethyl ether and then dried in vacuo to yield I-364 as a yellow powder (78 mg, 93% yield) MS m/z=468 (M+H).

reactant | 9-Chloro-7-(2,6-difluoro-phenyl)-2-iodo-5H-benzo[c]pyrimido[4,5-e]azepine | 0.43 mmol, 200 mg | ClC=1C=CC2=C(C(=NCC3=C2N=C(N=C3)I)C3=C(C=CC=C3F)F)C1 | C18H9ClF2IN3
reactant | ethyl 2-aminooxazole-5-carboxylate | 0.52 mmol, 81.2 mg | NC=1OC(=CN1)C(=O)OCC | C6H8N2O3
reactant | Xantphos | 0.052 mmol, 30 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | K3PO4 | 0.86 mmol, 183 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.034 mmol, 935 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-[9-Chloro-7-(2,6-difluoro-phenyl)-5H-benzo[c]pyrimido[4,5-e]azepin-2-ylamino]-oxazole-5-carboxylic acid ethyl ester | 103 mg, 48% | C(C)OC(=O)C1=CN=C(O1)NC=1N=CC2=C(C3=C(C(=NC2)C2=C(C=CC=C2F)F)C=C(C=C3)Cl)N1 | C24H16ClF2N5O3
